US08604023B2
7-Chloro-3-(naphthalen-2-ylmethyl)-5-(4-oxopiperidin-1-yl)-1H-benzo[e][1,4]diazepin-2(3H)-one (18 mg, 0.04 mmol) was dissolved in anhydrous tetrahydrofuran (0.2 mL) under nitrogen, 4-methoxyphenylmagnesium bromide (0.5M solution in tetrahydrofuran, 0.5 mL, 0.25 mmol) was added dropwise. After stirring at ambient temperature for 1 hour the reaction was quenched with water (1 mL), diluted with ethyl acetate, separated, washed with water, dried with sodium sulfate, decanted, and concentrated. The residue was redissolved in ethyl acetate (0.5 mL) and hexanes added slowly (total of 6 mL). A solid precipitated and was collected by filtration. Washing with hexanes provided 7-chloro-5-(4-hydroxy-4-(4-methoxyphenyl)piperidin-1-yl)-3-(naphthalen-2-ylmethyl)-1H-benzo[e][1,4]diazepin-2(3H)-one (10 mg, 43% yield). ESI m/z measured 540.2062 [M+H]+. calculated 540.2054.

reactant | 7-Chloro-3-(naphthalen-2-ylmethyl)-5-(4-oxopiperidin-1-yl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 0.04 mmol, 18 mg | ClC1=CC2=C(NC(C(N=C2N2CCC(CC2)=O)CC2=CC3=CC=CC=C3C=C2)=O)C=C1 | C25H22ClN3O2
reactant | 4-methoxyphenylmagnesium bromide | 0.25 mmol, 0.5M, 0.5 mL | COC1=CC=C(C=C1)[Mg]Br
solvent | tetrahydrofuran | 0.2 mL | O1CCCC1 | C4H8O
product | 7-chloro-5-(4-hydroxy-4-(4-methoxyphenyl)piperidin-1-yl)-3-(naphthalen-2-ylmethyl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 10 mg, 43% yield | ClC1=CC2=C(NC(C(N=C2N2CCC(CC2)(C2=CC=C(C=C2)OC)O)CC2=CC3=CC=CC=C3C=C2)=O)C=C1 | C32H30ClN3O3
